US05246956
(+-)-(Z)-Ethyl-6-[[2-phenyl-3-(1H-imidazol-1-yl)-2,3-dihydro-4H-benzopyranylidene]aminoxy]hexanoate (Compound 6).
As an example the intermediate oxime used as starting material can be prepared as follows: (+-)-2-phenyl-3-(1H-imidazol-1-yl)-2,3-dihydro-4H-benzopyran-4-one[J. Het. Chem. 21,311,(1984)], (4 g.; 0.014 moles), is dissolved in pyridine, and hydroxylamine hydrochloride (2.4 g.; 0.034 moles) dissolved in ethanol (20 ml), is added at room temperature to the solution.

reactant | (+-)-2-phenyl-3-(1H-imidazol-1-yl)-2,3-dihydro-4H-benzopyran-4-one | 0.014 moles, 4 g | C1(=CC=CC=C1)C1OC2=C(C(C1N1C=NC=C1)=O)C=CC=C2 | C18H14N2O2
reactant | hydroxylamine hydrochloride | 0.034 moles, 2.4 g | Cl.NO
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | (+-)-(Z)-Ethyl-6-[[2-phenyl-3-(1H-imidazol-1-yl)-2,3-dihydro-4H-benzopyranylidene]aminoxy]hexanoate | C(C)OC(CCCCCO\N=C\1/C(C(OC2=C1C=CC=C2)C2=CC=CC=C2)N2C=NC=C2)=O | C26H29N3O4
